US04849419
1,2-Di(4-nitrobenzyloxycarbonylamino)ethane
To a vigorously shaken solution of 1.39 g of ethylene diamine in 20 ml of water and 20 ml of tetrahydrofuran was added over 45 minutes a solution of 5 g of 4-nitrobenzyl chloroformate in 20 ml of dioxane. The mixture was allowed to warm to room temperature, and 150 ml of ethyl acetate and 200 ml of water were added. The mixture was filtered, and the filtrate dried to afford 2.67 g of the title compound.

reactant | ethylene diamine | 1.39 g | C(CN)N | C2H8N2
reactant | 4-nitrobenzyl chloroformate | 5 g | ClC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C8H6ClNO4
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 20 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | 200 ml | O | H2O
product | 1,2-Di(4-nitrobenzyloxycarbonylamino)ethane | 2.67 g | [N+](=O)([O-])C1=CC=C(COC(=O)NCCNC(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C18H18N4O8
